US07745449B2
Step (a): N-tert-butyl-5-chloro-3-formylthiophene-2-carboxamide
A 1 L three-neck flask was charged with N-tert-butyl-5-chlorothiophene-2-carboxamide (10.0 g, 45.9 mmol) and thoroughly flushed with nitrogen gas. The flask was charged with THF (400 ml) by cannulation, then cooled to −75° C. Tert-butyllithium, 1.7 m solution in pentane (68.4 ml, 116 mmol) was added by syringe pump over 45 min, keeping the temperature less than −70° C. After stirring at −75° C. for 90 min, the reaction was gradually warmed to −60° C. and stirred for 1 hr. The mixture was again cooled to −75° C. and DMF (14.2 ml, 184 mmol) was added dropwise, ensuring the temperature remained below −70° C. The mixture was stirred at −75° C. for 1 hr. The reaction was quenched with 200 ml sat. aq. NH4Cl, then allowed to warm to RT. Water was added to the solution to dissolve solids and the mixture was extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered and concentrated to give the title compound as a tan solid (11.6 g.). MS (ESI, pos. ion) m/z: 246 (M+1).

reactant | N-tert-butyl-5-chlorothiophene-2-carboxamide | 45.9 mmol, 10.0 g | C(C)(C)(C)NC(=O)C=1SC(=CC1)Cl | C9H12ClNOS
reactant | Tert-butyllithium | C(C)(C)(C)[Li]
reactant | pentane | 116 mmol, 68.4 ml | CCCCC | C5H12
reactant | DMF | 184 mmol, 14.2 ml | CN(C)C=O | C3H7NO
product | N-tert-butyl-5-chloro-3-formylthiophene-2-carboxamide | 11.6 g | C(C)(C)(C)NC(=O)C=1SC(=CC1C=O)Cl | C10H12ClNO2S
